US07456164B2
1,1,3-Trimethyl-3-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl]-urea
To a stirred solution of methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}amine (200 mg, 0.60 mmol) and triethylamine (102 μL, 0.72 mmol) in anhydrous dichloromethane (8 mL) under nitrogen atmosphere was added dropwise a solution of dimethylcarbamoylchloride (67 μL, 0.72 mmol) in anhydrous dichloromethane (2 mL). After stirring overnight, the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated, washed with a saturated aqueous solution of NaHCO3 and water then dried over magnesium sulfate, filtered, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with DCM:MeOH (95:5) followed by DCM:MeOH:NH3 (90:5:5) to give the title compound (84 mg, 39%). 1H NMR (400 MHz, CDCl3) δ7.19 (d, 2H), 6.90-6.88 (d, 2H), 4.03 (t, 2H), 3.81-3.78 (m, 2H), 3.56-3.52 (m, 4H), 2.70 (s, 6H), 2.66 (t, 2H), 2.29 (s, 3H), 2.05-2.01 (m, 4H), 1.86-1.81 (m, 6H).

reactant | methyl-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}amine | 0.60 mmol, 200 mg | CNCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C20H32N2O2
reactant | triethylamine | 0.72 mmol, 102 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoylchloride | 0.72 mmol, 67 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 1,1,3-Trimethyl-3-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl]-urea | 84 mg, 39% | CN(C(=O)N(CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)C)C | C23H37N3O3
